US08242104B2
A solution of 4-benzyloxy-2-fluoro-benzamidine hydrochloride (74.5 g, 0.265 mol) in THF (705 mL) was treated with potassium hydrogen carbonate (106 g, 1.06 mol) and H2O (150 mL). The resultant mixture was heated to reflux to give a white suspension. Whilst maintaining gentle reflux and mechanical stirring (500 rpm) a solution of 2-chloro-1-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-ethanone (50 g, 0.265 mol) was added dropwise over 40 min. The resultant suspension gradually dissolved giving a dark red mixture that was refluxed for 18 h. The mixture was cooled to RT, diluted with saturated aqueous NaCl solution (500 mL) and extracted with EtOAc (500 mL). The organic extract was washed with saturated aqueous NaCl solution, dried over Na2SO4, filtered and concentrated in vacuo to give a pink solid The solid was triturated in a mixture of MTBE/pentane (1:1 by volume, 300 mL), collected by filtration, washed with a MTBE/pentane mixture and dried in vacuo to give 5-[2-(4-Benzyloxy-2-fluoro-phenyl)-1H-imidazol-4-yl]-1-isopropyl-1H-[1,2,4]triazole as a pale pink solid (84 g, 84%). 1H NMR (400 MHz, d6-DMSO): 7.95-7.93 (2H, m), 7.76 (1H, s), 7.44-7.42 (5H, m), 7.12 (1H, dd, J=13.10, 2.52 Hz), 7.03 (1H, dd, J=8.74, 2.47 Hz), 5.90 (1H, m), 5.21 (2H, s), 1.46 (6H, d, J=6.60 Hz).

reactant | 4-benzyloxy-2-fluoro-benzamidine hydrochloride | 0.265 mol, 74.5 g | Cl.C(C1=CC=CC=C1)OC1=CC(=C(C(=N)N)C=C1)F
reactant | potassium hydrogen carbonate | 1.06 mol, 106 g | C(O)([O-])=O.[K+]
reactant | H2O | 150 mL | O | H2O
reactant | 2-chloro-1-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-ethanone | 0.265 mol, 50 g | ClCC(=O)C=1N(N=CN1)C(C)C | C7H10ClN3O
solvent | THF | 705 mL | C1CCOC1 | C4H8O
solvent | NaCl | 500 mL | [Na+].[Cl-]
product | 5-[2-(4-Benzyloxy-2-fluoro-phenyl)-1H-imidazol-4-yl]-1-isopropyl-1H-[1,2,4]triazole | 84 g, 84% | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C=1NC=C(N1)C1=NC=NN1C(C)C)F | C21H20FN5O
